US06884907B2
A 100-mL three neck round bottomed flask was charged with the 4-[5-(benzyloxyamino)-2-carboxy-5-oxopentyl]benzoic acid (0.500 g, 1.3 mmol), 0.5 N NaOH (5.2 mL, 2.6 mmol), water (8.3 ml), and a spatula full of 10% Pd on carbon. The mixture was stirred under hydrogen (1 atm) for 7 h. The catalyst was removed by filtration and the filtrate was lyophilized to give 0.382 g of 4-[2-carboxy-5-(hydroxyamino)-5-oxopentyl]benzoic acid disodium salt as an off white powder (89% yield): 1H NMR (D2O) δ 1.75-1.90 (m, 2H), 2.10-2.30 (m, 2H), 2.45-2.60 (m, 1H), 2.75-3.00 (m, 2H), 7.34 (d, J=8.0 Hz, 2H), 7.82 (d, J=8.0 Hz, 2H). Anal. Cacld. for C13H13NNa2O6.0.78H2O: C, 46.02; H, 4.33; N, 4.13. Found: C, 46.06; H, 4.14; N, 3.79.

reactant | 4-[5-(benzyloxyamino)-2-carboxy-5-oxopentyl]benzoic acid | 1.3 mmol, 0.500 g | C(C1=CC=CC=C1)ONC(CCC(CC1=CC=C(C(=O)O)C=C1)C(=O)O)=O | C20H21NO6
reactant | NaOH | 2.6 mmol, 0.5 N, 5.2 mL | [OH-].[Na+]
catalyst | Pd on carbon | [Pd] | Pd
solvent | water | 8.3 ml | O | H2O
product | 4-[2-carboxy-5-(hydroxyamino)-5-oxopentyl]benzoic acid disodium salt | 0.382 g | [Na+].[Na+].C(=O)(O)C(CC1=CC=C(C(=O)[O-])C=C1)CCC(=O)NO.C(=O)(O)C(CC1=CC=C(C(=O)[O-])C=C1)CCC(NO)=O | InChI=1S/2C13H15NO6.2Na/c2*15-11(14-20)6-5-10(13(18)19)7-8-1-3-9(4-2-8)12(16)17;;/h2*1-4,10,20H,5-7H2,(H,14,15)(H,16,17)(H,18,19);;/q;;2*+1/p-2
